US07229999B2
5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-3-pyridinecarboxylic acid (0.14 g, 0.3 mmol) was dissolved in DMF (5 mL). To the solution was added TBTU (0.12 g, 0.4 mmol), N,N-diisopropylethyl amine (0.3 mL, 1.7 mmol) and (1R,2R)-2-amino-cyclohexanol (58 mg, 0.4 mmol). The reaction mixture was stirred for 18 h at room temperature. The solvent was evaporated in vacuo and the residue was purified by column chromatography on silica (n-heptane/ethyl acetate gradient) to yield 0.11 g of the title compound as a colorless solid oil, MS (ISP) 483.4 (M+H)+.

reactant | 5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-3-pyridinecarboxylic acid | 0.3 mmol, 0.14 g | ClC1=C(C=C(C=C1)C(F)(F)F)C=1C=C(C=NC1OC1CCCC1)C(=O)O | C18H15ClF3NO3
reactant | TBTU | 0.4 mmol, 0.12 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | N,N-diisopropylethyl amine | 1.7 mmol, 0.3 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | (1R,2R)-2-amino-cyclohexanol | 0.4 mmol, 58 mg | N[C@H]1[C@@H](CCCC1)O | C6H13NO
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 5-(2-Chloro-5-trifluoromethyl-phenyl)-6-cyclopentyloxy-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | 0.11 g | ClC1=C(C=C(C=C1)C(F)(F)F)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OC1CCCC1 | C24H26ClF3N2O3
